US07196099B2
(Morpholine-4-carboxylic acid [1-(2-benzylcarbamoyl-2-oxo-ethylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide)
(2-Benzylcarbamoyl-2-hydroxy-ethyl)-carbamic acid tert-butyl ester (0.2 g, 0.68 mmol) was dissolved in dichloromethane (2 mL) and trifluoroacetic acid (2 mL). After stirring for 2 h at ambient temperature, the solution was evaporated under vacuum and the residue was dried under high vacuum. To this residue were added EDC (200 mg, 1.05 mmol), HOBt (200 mg, 1.28 mmol), 2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid (200 mg, 0.56 mmol), dichloromethane (5 mL) and 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 h. After dilution with ethyl acetate (100 mL) the solution was washed with 1N aqu. HCl (30 mL), sat. aqu. NaHCO3 (30 mL) and brine (30 mL), dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in dichloromethane (10 mL). Dess-Martin periodinane (500 mg, 1.18 mmol) was added, and the reaction mixture was stirred at ambient temperature for 1 h. After dilution with ethyl acetate (100 mL), the solution was washed with 0.26M Na2S2O3 in sat. aqu. NaHCO3 (30 mL), sat. aqu. NaHCO3 and brine, dried with MgSO4, and evaporated under vacuum. The product (morpholine-4-carboxylic acid [1-(2-benzylcarbamoyl-2-oxo-ethylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide) was crystallized from ethyl acetate/diethylether and was obtained as a white solid (153 mg, 0.29 mmol). 1H NMR: (DMSO) 9.24 (t, J=6.4 Hz, 1H), 8.19 (t, J=5.6 Hz, 1H), 7.39–7.19 (m, 10H), 7.08 (d, J=8 Hz, 1H), 4.83–4.76 (m, 1H), 4.49 (s, 2H), 4.48–4.33 (m, 2H), 4.31 (d, J=6.8 Hz, 2H), 3.68–3.25 (m, 10H). MS: (M+H)+ 531.

reactant | (2-Benzylcarbamoyl-2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 0.68 mmol, 0.2 g | C(C)(C)(C)OC(NCC(O)C(NCC1=CC=CC=C1)=O)=O | C15H22N2O4
reactant | EDC | 1.05 mmol, 200 mg
reactant | HOBt | 1.28 mmol, 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-[(Morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid | 0.56 mmol, 200 mg | N1(CCOCC1)C(=O)NC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C15H20N2O6S
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | Dess-Martin periodinane | 1.18 mmol, 500 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Morpholine-4-carboxylic acid [1-(2-benzylcarbamoyl-2-oxo-ethylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide | 0.29 mmol, 153 mg | C(C1=CC=CC=C1)NC(=O)C(CNC(=O)C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1)=O | C25H30N4O7S
